US05200422
a) N-(2-hydroxyphenyl)-2-nitroaniline
N-2-nitrophenyl-o-phenylendiamine, M.p. 95°-98° C. by reaction between o-phenylendiamine and 2-fluoronitrobenzene.

reactant | N-2-nitrophenyl-o-phenylendiamine | [N+](=O)([O-])C1=C(C=CC=C1)NC1=C(C=CC=C1)N | C12H11N3O2
reactant | o-phenylendiamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 2-fluoronitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
product | N-(2-hydroxyphenyl)-2-nitroaniline | OC1=C(C=CC=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C12H10N2O3
